US06432993B1
(34-2b) 5-{4-[1-Methyl-6-(4-methylthiophenoxy)-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione hydrochloride
In a similar manner to that described in Example (2-2b), a reaction was carried out using 5-{4-[1-methyl-6-(4-methylthiophenoxy)-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione (1.15 g) and 4N hydrogen chloride/ethyl acetate (20 ml) and the reaction mixture was purified to give the title compound (1.06 g)

reactant | 5-{4-[1-methyl-6-(4-methylthiophenoxy)-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione | 1.15 g | CN1C(=NC2=C1C=C(C=C2)SC2=CC=C(C=C2)C)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | C26H23N3O3S2
reactant | hydrogen chloride ethyl acetate | 4N, 20 ml | Cl.C(C)(=O)OCC
product | 5-{4-[1-Methyl-6-(4-methylthiophenoxy)-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidine-2,4-dione hydrochloride | 1.06 g | Cl.CN1C(=NC2=C1C=C(C=C2)SC2=CC=C(C=C2)C)COC2=CC=C(CC1C(NC(S1)=O)=O)C=C2 | InChI=1S/C26H23N3O3S2.ClH/c1-16-3-9-19(10-4-16)33-20-11-12-21-22(14-20)29(2)24(27-21)15-32-18-7-5-17(6-8-18)13-23-25(30)28-26(31)34-23;/h3-12,14,23H,13,15H2,1-2H3,(H,28,30,31);1H
